US05219852
N-[2-(4-Carboxymethoxyphenyl)-1-methylethyl]-2-(2-amino-thiazol-4-yl)morpholine dichloride
1.6 g (0.0037 mol) of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-acetamino-thiazol-4-yl)morpholine in 100 ml of 18% strength hydrochloric acid are heated to reflux under nitrogen for 48 hours. 1.5 g of active charcoal are added to the reaction solution which is throughly stirred and filtered. The solution is then concentrated, and the product is dried in vacuo over potassium hydroxide.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-acetamino-thiazol-4-yl)morpholine | 0.0037 mol, 1.6 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)NC(=O)C | C21H27N3O5S
reactant | hydrochloric acid | Cl | ClH
reactant | charcoal | 1.5 g | C | CH4
product | N-[2-(4-Carboxymethoxyphenyl)-1-methylethyl]-2-(2-amino-thiazol-4-yl)morpholine dichloride | [Cl-].[Cl-].C(=O)(O)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)N | InChI=1S/C18H23N3O4S.2ClH/c1-12(8-13-2-4-14(5-3-13)25-10-17(22)23)21-6-7-24-16(9-21)15-11-26-18(19)20-15;;/h2-5,11-12,16H,6-10H2,1H3,(H2,19,20)(H,22,23);2*1H/p-2
